US07935716B2
1.0 g of 2,2-dimethyl-5-(1-hydroxy-3-methylamino-2-butenylidene)-1,3-dioxane-4,6-dione was suspended in 20 ml of acetonitrile, 806 mg of N,N′-difluoro-2,2′-bipyridinium bis(tetrafluoroborate) was added thereto, and this was stirred at room temperature for 1 hour and at 50° C. for 30 minutes. The reaction mixture was added to 100 ml of ice water and extracted with 100 ml of chloroform twice. The organic layer was dried with anhydrous magnesium sulfate and concentrated, and the residue was subjected to silica gel column chromatography (eluent: ethyl acetate) to obtain 480 mg of 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylic acid represented by the formula:

reactant | 2,2-dimethyl-5-(1-hydroxy-3-methylamino-2-butenylidene)-1,3-dioxane-4,6-dione | 1.0 g | CC1(OC(C(C(O1)=O)=C(C=C(C)NC)O)=O)C | C11H15NO5
reactant | N,N′-difluoro-2,2′-bipyridinium bis(tetrafluoroborate) | 806 mg | F[B-](F)(F)F.F[B-](F)(F)F.F[N+]1=C(C=CC=C1)C1=[N+](C=CC=C1)F
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 480 mg | FC=1C(=C(C(N(C1C)C)=O)C(=O)O)O | C8H8FNO4
